US09422271B2
A mixture of N-tert-butyl-5-(4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonamide (353 mg, 1.0 mmol) and NCS (139 mg, 1.05 mmol, 1.0 equiv.) in acetic acid (5 mL) was stirred at rt for 1 h. The reaction was extracted with EA, the organic layer was washed with (brine), dried (Na2SO4) and concentrated to provide N-tert-butyl-5-(5-chloro-4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonamide (341 mg, 88%). LC-MS (m/z)=388.1 [M+H]+

reactant | N-tert-butyl-5-(4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonamide | 1.0 mmol, 353 mg | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC(=CC(=N1)C1CC1)O | C15H19N3O3S2
reactant | NCS | 1.05 mmol, 139 mg, 1.0 equiv. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-tert-butyl-5-(5-chloro-4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonamide | 341 mg, 88% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC(=C(C(=N1)C1CC1)Cl)O | C15H18ClN3O3S2
